US07718693B2
5-oxo-1-(2-pyridinylmethyl)proline (0.220 g, 1 mmol, prepared as described below), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.384 g, 2 mmol), and 1-hydroxybenzotriazole (0.308 g, 2 mmol) were stirred together in dichloromethane (10 ml) at room temperature for 30 minutes. The mixture was then treated with {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (0.314 g, 1.5 mmol) and the mixture was stirred overnight at room temperature. The mixture was concentrated and partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution. The aqueous layer was separated and extracted with ethyl acetate and then the combined ethyl acetate fractions were washed with 3 portions of water and then with saturated aqueous sodium chloride solution. Drying over sodium sulphate and concentration gave a solid residue which was purified by mass-directed automated HPLC to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-5-oxo-1-(2-pyridinylmethyl)prolinamide (0.263 g) as a buff-coloured solid.

reactant | 5-oxo-1-(2-pyridinylmethyl)proline | 1 mmol, 0.220 g | O=C1CC[C@H](N1CC1=NC=CC=C1)C(=O)O | C11H12N2O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2 mmol, 0.384 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2 mmol, 0.308 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 1.5 mmol, 0.314 g | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-5-oxo-1-(2-pyridinylmethyl)prolinamide | 0.263 g | ClC1=C(C=CC=C1C(F)(F)F)CNC([C@H]1N(C(CC1)=O)CC1=NC=CC=C1)=O | C19H17ClF3N3O2
